US04436742
12.5 g (60 mM) 4-(2,3-epoxypropyloxy)-2,1,3-benzthiadiazole were dissolved in 150 ml. n-butanol and, after the addition of 40 ml. tert.-butylamine, heated under reflux for 3 hours. When the reaction was finished, the reaction mixture was evaporated and the residue was chromatographed on a silica gel column in the manner described in Example 1. There were obtained 9.6 g (57% of theory) 4-(3-tert.-butylamino-2-hydroxy-propyloxy)-2,1,3-benzthiadiazole, which had a melting point of 89°-91° C.

reactant | 4-(2,3-epoxypropyloxy)-2,1,3-benzthiadiazole | 60 mM, 12.5 g | O1C(COC2=CC=CC3=NSN=C32)C1 | C9H8N2O2S
reactant | tert.-butylamine | C(C)(C)(C)N | C4H11N
solvent | n-butanol | C(CCC)O | C4H10O
product | 4-(3-tert.-butylamino-2-hydroxy-propyloxy)-2,1,3-benzthiadiazole | 9.6 g, 57% | C(C)(C)(C)NCC(COC1=CC=CC2=NSN=C21)O | C13H19N3O2S
